US08067408B2
1,1-Dimethylethyl 4-[(3-bromophenyl)methylidene]-1-piperidinecarboxylate
To [(3-bromophenyl)methyl](triphenyl)phosphonium bromide (1.13 mg, 2.2 mmol) in DMF (4 mL) was added NaH (52.8 mg, 2.2 mmol) after which the mixture was stirred at RT for 5 min before 1,1-dimethylethyl 4-oxo-1-piperidinecarboxylate (400 mg, 2.0 mmol) was added. This mixture was stirred at RT for 1 h. The resultant mixture was diluted with Et2O (25 mL), washed with H2O (12+2×8 mL), brine (8 mL), dried over NaSO4, and filtered. The filtrate was concentrated and purified with CombiFlash chromatograph to afford the title compound (0.2014 g, 28%). LC-MS m/z 352 (M+H)+.

reactant | [(3-bromophenyl)methyl](triphenyl)phosphonium bromide | 2.2 mmol, 1.13 mg | [Br-].BrC=1C=C(C=CC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | NaH | 2.2 mmol, 52.8 mg | [H-].[Na+]
reactant | 1,1-dimethylethyl 4-oxo-1-piperidinecarboxylate | 2.0 mmol, 400 mg | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | Et2O | 25 mL | CCOCC | C4H10O
product | 1,1-Dimethylethyl 4-[(3-bromophenyl)methylidene]-1-piperidinecarboxylate | 0.2014 g, 28% | BrC=1C=C(C=CC1)C=C1CCN(CC1)C(=O)OC(C)(C)C | C17H22BrNO2
